US07491713B2
Step C: 2,2,2-Trifluoro-N-(1-isobutyl-2-oxo-5-phenyl-2,5-dihydro-1H-pyrrol-3-yl)acetamide
A solution of N-isobutyl-4-oxo-4-phenyl-2-[(trifluoroacetyl)amino]butanamide (0.500 g, 1.45 mmol) and acetic acid (0.831 mL, 14.5 mmol) in toluene (15 mL) was heated to reflux. After 48 hours the reaction was cooled and concentrated. The crude product was purified by chromatography (silica gel, 0 to 50% ethyl acetate in hexane gradient elution) to give the title compound as a solid (0.412 g). MS 327 (M+1) 1H NMR (500 MHz, CDCl3) □ 7.40-7.36 (m, 3H), 7.20 (d, J=2.0 Hz, 1H), 7.12-7.11 (m, 2H), 5.12 (d, J=2.0 Hz, 1H), 3.53 (dd, J=13.9, 9.4 Hz, 1H), 2.61 (dd, J=13.9, 5.9 Hz, 1H), 1.89-1.80 (m, 1H), 0.87 (d, J=6.6 Hz, 3H), 0.84 (d, J=6.6 Hz, 3H).

reactant | N-isobutyl-4-oxo-4-phenyl-2-[(trifluoroacetyl)amino]butanamide | 1.45 mmol, 0.500 g | C(C(C)C)NC(C(CC(C1=CC=CC=C1)=O)NC(C(F)(F)F)=O)=O | C16H19F3N2O3
reactant | acetic acid | 14.5 mmol, 0.831 mL | C(C)(=O)O | C2H4O2
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
product | 2,2,2-Trifluoro-N-(1-isobutyl-2-oxo-5-phenyl-2,5-dihydro-1H-pyrrol-3-yl)acetamide | 0.412 g | FC(C(=O)NC=1C(N(C(C1)C1=CC=CC=C1)CC(C)C)=O)(F)F | C16H17F3N2O2
